US09145354B2
Step 4 Chloroacetyl chloride (0.323 ml, 4.05 mmol) was added to a mixture of tert-butyl N-[(1R)-1-(3-{[4-amino-3-(benzyloxy)phenyl]carbonyl}-4-chloro-2-fluorophenyl)propyl]carbamate (1.6 g, 3.12 mmol), triethylamine (0.651 ml, 4.68 mmol) and dichloromethane (30 ml) at room temperature. After 30 minutes a small additional portion of chloroacetyl chloride was added and in 60 minutes the reaction was complete. The reaction mixture was washed with dilute citric acid solution and dilute sodium bicarbonate and then concentrated. The residue was purified on silica eluting with 30-70% ethyl acetate/petrol to furnish tert-butyl N-[(1R)-1-(3-{[3-(benzyloxy)-4-(2-chloroacetamido)-phenyl]-carbonyl}-4-chloro-2-fluorophenyl)propyl]carbamate as a yellow oil (1.754 g). [M−H]−=587

reactant | Chloroacetyl chloride | 4.05 mmol, 0.323 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | tert-butyl N-[(1R)-1-(3-{[4-amino-3-(benzyloxy)phenyl]carbonyl}-4-chloro-2-fluorophenyl)propyl]carbamate | 3.12 mmol, 1.6 g | NC1=C(C=C(C=C1)C(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)NC(OC(C)(C)C)=O)F)OCC1=CC=CC=C1 | C28H30ClFN2O4
reactant | triethylamine | 4.68 mmol, 0.651 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | tert-butyl N-[(1R)-1-(3-{[3-(benzyloxy)-4-(2-chloroacetamido)-phenyl]-carbonyl}-4-chloro-2-fluorophenyl)propyl]carbamate | 1.754 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1NC(CCl)=O)C(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)NC(OC(C)(C)C)=O)F | C30H31Cl2FN2O5
